US08372986B2
1-benzyl-5-(tert-butyl)-1H-1,2,3-triazole (4a)
Benzyl azide (0.400 g, 3.00 mmol), 3,3-dimethyl-1-butyne (0.556 ml, 4.51 mmol), Cp*RuCl(PPh3)2 (50 mg, 0.063 mmol). Solvent, benzene; reaction temperature, 80° C.; reaction time, 4 hours; yield, 0.54 g (83%). EI-MS: m/z 216 [M+1].

reactant | Benzyl azide | 3.00 mmol, 0.400 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | 3,3-dimethyl-1-butyne | 4.51 mmol, 0.556 ml | CC(C#C)(C)C | C6H10
catalyst | Cp*RuCl(PPh3)2 | 0.063 mmol, 50 mg | C[C-]1C(=C(C(=C1C)C)C)C.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Ru+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-benzyl-5-(tert-butyl)-1H-1,2,3-triazole | C(C1=CC=CC=C1)N1N=NC=C1C(C)(C)C | C13H17N3
